US07056917B2
(D) tert-Butyl (E)-3-(2-{3-[(aminocarbonyl)oxy]piperidino}-8-{[(4-cyclobutyl-1,3-thiazol-2-yl)amino]carbonyl}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoate
tert-Butyl (E)-3-[8-{[(4-cyclobutyl-1,3-thiazol-2-yl)amino]carbonyl}-2-(3-hydroxypiperidino)-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl]-2-propenoate (16 mg, 0.029 mmol) was dissolved in ethyl acetate (3 ml), added with trichloroacetyl isocyanate (10 μl) under ice cooling, stirred at 0° C. for 1 hour, then further added with trichloroacetyl isocyanate (10 μl), and further stirred for 30 minutes. Then, the reaction solution was concentrated under reduced pressure, and the resulting residue was added with methanol (2 ml), water (0.2 ml) and sodium formate (12 mg) at room temperature and stirred at room temperature for 7 hours. The reaction solution was concentrated under reduced pressure, and the residue was purified by thin layer silica gel chromatography (chloroform:methanol=30:1) to obtain 20 mg of the title compound.

reactant | tert-Butyl (E)-3-[8-{[(4-cyclobutyl-1,3-thiazol-2-yl)amino]carbonyl}-2-(3-hydroxypiperidino)-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl]-2-propenoate | 0.029 mmol, 16 mg | C1(CCC1)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C(=C(N2)N2CC(CCC2)O)/C=C/C(=O)OC(C)(C)C)=O)C=C1 | C28H33N5O5S
reactant | trichloroacetyl isocyanate | 10 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | trichloroacetyl isocyanate | 10 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (E)-3-(2-{3-[(aminocarbonyl)oxy]piperidino}-8-{[(4-cyclobutyl-1,3-thiazol-2-yl)amino]carbonyl}-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl)-2-propenoate | 20 mg | NC(=O)OC1CN(CCC1)C=1N=C2N(C(C1/C=C/C(=O)OC(C)(C)C)=O)C=CC(=C2)C(=O)NC=2SC=C(N2)C2CCC2 | C29H34N6O6S
